US04994486
Step 5: 4-(2'-Methoxyphenyl)-3-phenylbutyric acid
4-(2'-Methoxyphenyl)-3-phenylbutanenitrile (60.1 g, 239 mmol), from Step 4, was dissolved in 340 mL of ethylene glycol. Sodium hydroxide (67.5 g, 1.69 mol) and 135 mL of water were added and the reaction mixture was heated at reflux temperature for 24 h. The solvent was removed in vacuo and 1 L of water plus 1 L of methylene chloride were added to the residue. The layers were separated and the organic layer discarded. The aqueuous layer was acidified with concentrated aqueous hydrochloric acid and extracted with 3 L of ethyl acetate. The ethyl acetate solution was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to give 49.8 g (77% yield) of the title compound as an oil; 1H NMR (CDCl3)δ2.6-2.7 (m, 2H), 2.9 (d, 2H), 3.4-3.5 (m, 1H), 3.77 (s, 3H), 6.56 (t, 1H), 6.73 (dd, 1H), 6.80 (d, 1H), 7.0-7.4 (m, 6H).

reactant | 4-(2'-Methoxyphenyl)-3-phenylbutanenitrile | 239 mmol, 60.1 g | COC1=C(C=CC=C1)CC(CC#N)C1=CC=CC=C1 | C17H17NO
reactant | Sodium hydroxide | 1.69 mol, 67.5 g | [OH-].[Na+]
reactant | water | 135 mL | O | H2O
solvent | ethylene glycol | 340 mL | C(CO)O | C2H6O2
product | 4-(2'-Methoxyphenyl)-3-phenylbutyric acid | 49.8 g, 77% yield | COC1=C(C=CC=C1)CC(CC(=O)O)C1=CC=CC=C1 | C17H18O3
